US07205314B2
6-(2-Methoxyethoxy)isoquinolin-1-ol
To 3-(2-methoxyethoxy)benzaldehyde (7.35 g, 40.6 mmol) and pyridine (65 mL) were added malonic acid (8.5 g, 81.7 mmol) and piperidine (4 mL, 40.6 mmol). The resulting yellow solution was heated at 80° C. under nitrogen atmosphere. Gas evolved as the reaction proceeded. After 2.5 h the reaction was allowed to cool down to room temperature and stirring was continued over night. The reaction solution was concentrated in vacuo to give an oil. The oil was stirred with ice and triturated by slow addition of hydrochloric acid (12 M, 13 mL). The resulting yellow precipitate was filtered and washed with aqueous hydrochloric acid (2 M, 3×20 mL). The pale yellow solid obtained was dried in vacuo to give 8.7 g. The solid (8.7 g, 39.2 mmol) was dissolved in thionyl chloride (70 mL) and N,N-dimethylformamide (5 mL) and was refluxed under nitrogen atmosphere over night. After 16 h, the reaction solution was cooled to room temperature and concentrated in vacuo. The residue was taken up in dioxane (15 mL) and the resulting solution was added dropwise to a stirred solution of sodium azide (7.6 g, 118 mmol) in dioxane/water (26 mL, 1:1) at 5° C. The obtained suspension was stirred for 50 min at 3° C. and ethyl acetate (100 mL) was added. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×75 mL). The combined organic layers were washed with water (20 mL) and brine (30 mL), dried over magnesium sulphate and filtered. Diphenyl ether (30 mL) was added and the ethyl acetate was removed in vacuo. The acyl azide solution in diphenyl ether was added during 15 min to diphenyl ether (70 mL) at 215° C. The reaction solution was refluxed 2.5 h and then stirred at room temperature over night. To the reaction solution was added diethyl ether (100 mL) and the precipitate formed was filtered off and washed with diethyl ether. The precipitate was taken up in methanol/dichloromethane, adsorbed onto silica gel (30 g) and purified by flash chromatography (gradient:dichloromethane:methanol; 98:2→95:5). The product containing fractions were combined and concentrated to give a solid. The solid was triturated with diethyl ether, filtered and dried in vacuo to give 3.15 g (37% yield) of the title compound. MS m/z 200 (M++1).

reactant | 3-(2-methoxyethoxy)benzaldehyde | 40.6 mmol, 7.35 g | COCCOC=1C=C(C=O)C=CC1 | C10H12O3
reactant | malonic acid | 81.7 mmol, 8.5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 40.6 mmol, 4 mL | N1CCCCC1 | C5H11N
reactant | sodium azide | 118 mmol, 7.6 g | [N-]=[N+]=[N-].[Na+]
solvent | thionyl chloride | 70 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dioxane water | 26 mL | O1CCOCC1.O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | pyridine | 65 mL | N1=CC=CC=C1 | C5H5N
product | 6-(2-Methoxyethoxy)isoquinolin-1-ol | 3.15 g, 37% yield | COCCOC=1C=C2C=CN=C(C2=CC1)O | C12H13NO3
